US08536180B2
ethyl 3-iodo-1H-pyrazole-4-carboxylate
A mixture of ethyl 3-amino-pyrazole-4-carboxylate (6.4 g, 40 mmole) and diiodomethane (200 g) was cooled to −10° C. Isoamyl nitrite (24 mL, 180 mmole) was added via a syringe over 30 minutes. The mixture was allowed to warm up to ambient temperature and then stirred at 100° C. for 2 hours. After cooling to room temperature, the mixture was concentrated and the residue was dissolved in ethyl acetate (200 mL) and washed with 0.5 M aqueous sodium metasulfite solution (2×70 mL), 1 N HCl and brine. The organic solution was dried with magnesium sulfate and concentrated. The crude product was purified on a silica gel column eluting with 15% ethyl acetate in hexane to provide the title compound. MS (DCI) m/e 266.9 (M+H)+, 283.9 (M+NH4)+.

reactant | ethyl 3-amino-pyrazole-4-carboxylate | 40 mmole, 6.4 g | NC1=NNC=C1C(=O)OCC | C6H9N3O2
reactant | diiodomethane | 200 g | ICI | CH2I2
reactant | Isoamyl nitrite | 180 mmole, 24 mL | N(=O)OCCC(C)C | C5H11NO2
product | ethyl 3-iodo-1H-pyrazole-4-carboxylate | IC1=NNC=C1C(=O)OCC | C6H7IN2O2
